US08754114B2
Step 4: N-methyl-2-(4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}phenyl)propanamide
To a solution of 2-(4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}phenyl)propanoic acid (20.0 mg, 0.0414 mmol) and 2.0 M methylamine in THF (41 μL, 0.083 mmol, Aldrich, Cat. No. 395056) in N,N-dimethylformamide (1 mL) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (23 mg, 0.053 mmol, Adv. ChemTech. Cat. No. RC8105) and N,N-diisopropylethylamine (23 μL, 0.13 mmol). The reaction mixture was stirred at r.t. 2 h., then diluted with MeOH, and purified by RP-HPLC (pH=10) to afford the desired compound. LCMS (M+H)+: m/z=496.2.

reactant | 2-(4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}phenyl)propanoic acid | 0.0414 mmol, 20.0 mg | FC(CNC(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C2=CC=C(C=C2)C(C(=O)O)C)(F)F | C25H21F3N4O3
reactant | methylamine | 2.0 M | CN | CH5N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.13 mmol, 23 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | C1CCOC1 | C4H8O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | MeOH | CO | CH4O
product | N-methyl-2-(4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}phenyl)propanamide | CNC(C(C)C1=CC=C(C=C1)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)C=C1)=O | C26H24F3N5O2
